US08440652B2
To a solution of NaIO4 (9.56 g, 44.7 mmol) and RuCl3 (927 mg, 4.47 mmol) in water (50 mL), DCM (50 mL) and MeCN (2 mL) was added a solution of tert-butyl 6-chloro-3,4-dihydro-2,7-naphthyridine-2(1H)-carboxylate (4.0 g, 14.9 mmol) in DCM (25 mL). This reaction was stirred at room temperature for 2 h. At completion, the reaction was and was quenched with isopropanol (10 mL), filtered over celite and the filter cake was washed with DCM (20 mL). The filtrate was partitioned in a separatory funnel and the layers were separated. The organic layer was extracted with DCM (2×20 mL) and the combined organics were dried over Na2SO4, then filtered and concentrated. The residue was purified by flash chromatography over silica gel (20-50% EtOAc/hexane eluent) to give tert-butyl 6-chloro-1-oxo-3,4-dihydro-2,7-naphthyridine-2(1H)-carboxylate (3.0 g, 71% yield) as a yellow crystalline solid. 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.92 (s, 1H), 7.47 (s, 1H), 4.03 (t, J=6.3 Hz, 2H), 3.09 (t, J=6.1 Hz, 2H), 1.54-1.62 (m, 9H); MS (EI) m/z=283.7 [M+1]+.

reactant | tert-butyl 6-chloro-3,4-dihydro-2,7-naphthyridine-2(1H)-carboxylate | 14.9 mmol, 4.0 g | ClC=1C=C2CCN(CC2=CN1)C(=O)OC(C)(C)C | C13H17ClN2O2
reactant | water | 50 mL | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | MeCN | 2 mL | CC#N | C2H3N
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 6-chloro-1-oxo-3,4-dihydro-2,7-naphthyridine-2(1H)-carboxylate | 3.0 g, 71% yield | ClC=1C=C2CCN(C(C2=CN1)=O)C(=O)OC(C)(C)C | C13H15ClN2O3
